US06605633B1
Ethyl 5-Methyl-2-phenyl-1H-indole-3-butanoate
The expected ester is obtained in the form of a brown solid with a yield of 58% by following a procedure analogous to Preparation X and starting from ethyl ε-oxobenzenehexanoate and 4-methylphenylhydrazine hydrochloride.

reactant | ethyl ε-oxobenzenehexanoate | O=C(CCCCC(=O)OCC)C1=CC=CC=C1 | C14H18O3
reactant | 4-methylphenylhydrazine hydrochloride | Cl.CC1=CC=C(C=C1)NN
product | Ethyl 5-Methyl-2-phenyl-1H-indole-3-butanoate | yield of 58% | CC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCCC(=O)OCC | C21H23NO2
